datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(C)C(C)[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)C)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)C)C1=CC=CC=C1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.[H][S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([O]C)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([O]C)[O][H] 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)CC 10=20;20,21=21"
"[O-:10]C(C)C(C)C([H])C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C([H])C(C)C(C)[O:10]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C([H])C(C)C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C(C)C([H])C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C)CCCCCC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]([NH:21]C)([O][H])[O]C.[Cl-]>>[Cl-].CC[NH:10][H].C[NH+:21]=[C:20]([O][H])[O]C 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C(C)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C(C)[S]1 10=20;20,21=21"
"[O:10]([Na])C(CC)/C([H])=C([C:20](OC)=[O:21])/C>>[O-:21][C:20]1(OC)[O+:10]([Na])C(CC)C([H])=C1C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][S:10]C([H])C(C)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(CC)[NH][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"[O-:10]C(C1=C(C([CH:20](OCC)=[O:21])[H])C=CC=C1)C>>[O-:21][CH:20]2(OCC)C(C3=C(C([O:10]2)C)C=CC=C3)[H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]C 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C([H])[S]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)C.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)CC)C 21=20;20,10=10"
"[O-:10]C([H])/C([H])=C([H])\C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])=C([H])C([H])[O:10]1 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(C)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C(C)[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"C(C([O-:21])C)(C(O[C:20](=[O:10])OCC)C)[H]>>C1(C(O[C:20]([O-:10])([O:21]C1C)OCC)C)[H] 21=20;20,10=10"
"[NH:10]([H])C(CC)C(C)C(C)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(C)C(C)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)C)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)C.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
